Official ngspice CMOSEdu Level-3 NMOS DC-bias adaptation
* Origin: examples/xspice/see/CMOSComparator/cmosedu_models.txt @ c76219a
VDD vdd 0 5
VGG gate 0 2.4
VBB bulk 0 -0.5
VSENSE vdd drain 0
M1 drain gate 0 bulk N_1u W=4u L=1.2u AD=8u AS=8u PD=12u PS=12u NRD=2 NRS=3 M=1.5
RLEAK drain 0 1g
.model N_1u NMOS LEVEL=3
+ TOX=200e-10 NSUB=1e17 GAMMA=0.5 PHI=0.7 VTO=0.8 DELTA=3.0
+ UO=650 ETA=3e-6 THETA=0.1 KP=120e-6 VMAX=1e5 KAPPA=0.3
+ RSH=0 NFS=1e12 TPG=1 XJ=500e-9 LD=100e-9
+ CGDO=200e-12 CGSO=200e-12 CGBO=1e-10 CJ=400e-6 PB=1 MJ=0.5
+ CJSW=300e-12 MJSW=0.5
.op
.print op v(drain) v(gate) v(bulk) i(vsense)
.end
