OP level 4 case 17: mixed rlc clamp backplane
* Stress-mesh topology family adapted from Xyce Regression RLC/filter test families; primitive-only subset: https://github.com/Xyce/Xyce_Regression
.model DMOD D IS=2e-14 N=1.04 GMIN=1e-10
.model NPNMOD NPN IS=1e-16 BF=100 BR=2 GMIN=1e-10
.model NMOD NMOS LEVEL=1 VTO=0.7 KP=70u LAMBDA=0.015 GMIN=1e-10
.model PMOD PMOS LEVEL=1 VTO=-0.7 KP=35u LAMBDA=0.015 GMIN=1e-10
VDD vdd 0 DC 5
VBIAS bias 0 DC 0.62
VIN in 0 DC 1.7
RFEED vdd rail 47
LFEED rail supply 80u
MPASS out in supply supply PMOD W=24u L=1u
MNLOAD out bias 0 0 NMOD W=10u L=1u
QMON sense bias 0 NPNMOD
DCLAMP sense 0 DMOD
RSENSE out sense 2.2k
ROUT out 0 100k
COUT out 0 33n
RF001 sense n005 180
RG001 n005 0 13k
CF001 n005 0 4n
RB001 n005 rail 8k
LF001 n005 l006 50u
DF001 0 l006 DMOD AREA=3
MF001 l006 0 0 0 NMOD W=8u L=1u
RX001 l006 supply 25k
RF002 l006 n007 316
RG002 n007 0 21k
CF002 n007 0 12n
RB002 n007 out 16k
LF002 n007 l008 90u
DF002 0 l008 DMOD AREA=2
MF002 l008 0 0 0 NMOD W=8u L=1u
RX002 l008 supply 33k
RF003 l008 n009 452
RG003 n009 0 29k
CF003 n009 0 7n
RB003 n009 n005 7k
LF003 n009 l010 45u
DF003 0 l010 DMOD AREA=1
MF003 l010 0 0 0 NMOD W=8u L=1u
RX003 l010 supply 41k
RF004 l010 n011 265
RG004 n011 0 14k
CF004 n011 0 2n
RB004 n011 n007 15k
LF004 n011 l012 85u
DF004 0 l012 DMOD AREA=3
MF004 l012 0 0 0 NMOD W=8u L=1u
RX004 l012 supply 20k
RF005 l012 n013 401
RG005 n013 0 22k
CF005 n013 0 10n
RB005 n013 n009 6k
LF005 n013 l014 40u
DF005 0 l014 DMOD AREA=2
MF005 l014 0 0 0 NMOD W=8u L=1u
RX005 l014 supply 28k
RF006 l014 n015 214
RG006 n015 0 30k
CF006 n015 0 5n
RB006 n015 n011 14k
LF006 n015 l016 80u
DF006 0 l016 DMOD AREA=1
MF006 l016 0 0 0 NMOD W=8u L=1u
RX006 l016 supply 36k
RF007 l016 n017 350
RG007 n017 0 15k
CF007 n017 0 13n
RB007 n017 n013 5k
LF007 n017 l018 35u
DF007 0 l018 DMOD AREA=3
MF007 l018 0 0 0 NMOD W=8u L=1u
RX007 l018 supply 44k
RF008 l018 n019 486
RG008 n019 0 23k
CF008 n019 0 8n
RB008 n019 n015 13k
LF008 n019 l020 75u
DF008 0 l020 DMOD AREA=2
MF008 l020 0 0 0 NMOD W=8u L=1u
RX008 l020 supply 23k
RF009 l020 n021 299
RG009 n021 0 31k
CF009 n021 0 3n
RB009 n021 n017 21k
LF009 n021 l022 30u
DF009 0 l022 DMOD AREA=1
MF009 l022 0 0 0 NMOD W=8u L=1u
RX009 l022 supply 31k
RF010 l022 n023 435
RG010 n023 0 16k
CF010 n023 0 11n
RB010 n023 n019 12k
LF010 n023 l024 70u
DF010 0 l024 DMOD AREA=3
MF010 l024 0 0 0 NMOD W=8u L=1u
RX010 l024 supply 39k
RF011 l024 n025 248
RG011 n025 0 24k
CF011 n025 0 6n
RB011 n025 n021 20k
LF011 n025 l026 110u
DF011 0 l026 DMOD AREA=2
MF011 l026 0 0 0 NMOD W=8u L=1u
RX011 l026 supply 18k
RF012 l026 n027 384
RG012 n027 0 32k
CF012 n027 0 14n
RB012 n027 n023 11k
LF012 n027 l028 65u
DF012 0 l028 DMOD AREA=1
MF012 l028 0 0 0 NMOD W=8u L=1u
RX012 l028 supply 26k
RF013 l028 n029 197
RG013 n029 0 17k
CF013 n029 0 9n
RB013 n029 n025 19k
LF013 n029 l030 105u
DF013 0 l030 DMOD AREA=3
MF013 l030 0 0 0 NMOD W=8u L=1u
RX013 l030 supply 34k
RF014 l030 n031 333
RG014 n031 0 25k
CF014 n031 0 4n
RB014 n031 n027 10k
LF014 n031 l032 60u
DF014 0 l032 DMOD AREA=2
MF014 l032 0 0 0 NMOD W=8u L=1u
RX014 l032 supply 42k
RF015 l032 n033 469
RG015 n033 0 33k
CF015 n033 0 12n
RB015 n033 n029 18k
LF015 n033 l034 100u
DF015 0 l034 DMOD AREA=1
MF015 l034 0 0 0 NMOD W=8u L=1u
RX015 l034 supply 21k
RF016 l034 n035 282
RG016 n035 0 18k
CF016 n035 0 7n
RB016 n035 n031 9k
LF016 n035 l036 55u
DF016 0 l036 DMOD AREA=3
MF016 l036 0 0 0 NMOD W=8u L=1u
RX016 l036 supply 29k
RF017 l036 n037 418
RG017 n037 0 26k
CF017 n037 0 2n
RB017 n037 n033 17k
LF017 n037 l038 95u
DF017 0 l038 DMOD AREA=2
MF017 l038 0 0 0 NMOD W=8u L=1u
RX017 l038 supply 37k
RF018 l038 n039 231
RG018 n039 0 34k
CF018 n039 0 10n
RB018 n039 n035 8k
LF018 n039 l040 50u
DF018 0 l040 DMOD AREA=1
MF018 l040 0 0 0 NMOD W=8u L=1u
RX018 l040 supply 45k
RF019 l040 n041 367
RG019 n041 0 19k
CF019 n041 0 5n
RB019 n041 n037 16k
LF019 n041 l042 90u
DF019 0 l042 DMOD AREA=3
MF019 l042 0 0 0 NMOD W=8u L=1u
RX019 l042 supply 24k
RF020 l042 n043 180
RG020 n043 0 27k
CF020 n043 0 13n
RB020 n043 n039 7k
LF020 n043 l044 45u
DF020 0 l044 DMOD AREA=2
MF020 l044 0 0 0 NMOD W=8u L=1u
RX020 l044 supply 32k
RF021 l044 n045 316
RG021 n045 0 12k
CF021 n045 0 8n
RB021 n045 n041 15k
LF021 n045 l046 85u
DF021 0 l046 DMOD AREA=1
MF021 l046 0 0 0 NMOD W=8u L=1u
RX021 l046 supply 40k
RF022 l046 n047 452
RG022 n047 0 20k
CF022 n047 0 3n
RB022 n047 n043 6k
LF022 n047 l048 40u
DF022 0 l048 DMOD AREA=3
MF022 l048 0 0 0 NMOD W=8u L=1u
RX022 l048 supply 19k
RF023 l048 n049 265
RG023 n049 0 28k
CF023 n049 0 11n
RB023 n049 n045 14k
LF023 n049 l050 80u
DF023 0 l050 DMOD AREA=2
MF023 l050 0 0 0 NMOD W=8u L=1u
RX023 l050 supply 27k
RF024 l050 n051 401
RG024 n051 0 13k
CF024 n051 0 6n
RB024 n051 n047 5k
LF024 n051 l052 35u
DF024 0 l052 DMOD AREA=1
MF024 l052 0 0 0 NMOD W=8u L=1u
RX024 l052 supply 35k
RF025 l052 n053 214
RG025 n053 0 21k
CF025 n053 0 14n
RB025 n053 n049 13k
LF025 n053 l054 75u
DF025 0 l054 DMOD AREA=3
MF025 l054 0 0 0 NMOD W=8u L=1u
RX025 l054 supply 43k
RF026 l054 n055 350
RG026 n055 0 29k
CF026 n055 0 9n
RB026 n055 n051 21k
LF026 n055 l056 30u
DF026 0 l056 DMOD AREA=2
MF026 l056 0 0 0 NMOD W=8u L=1u
RX026 l056 supply 22k
RF027 l056 n057 486
RG027 n057 0 14k
CF027 n057 0 4n
RB027 n057 n053 12k
LF027 n057 l058 70u
DF027 0 l058 DMOD AREA=1
MF027 l058 0 0 0 NMOD W=8u L=1u
RX027 l058 supply 30k
RF028 l058 n059 299
RG028 n059 0 22k
CF028 n059 0 12n
.op
.print op v(supply) v(out) v(rail) v(sense) i(VDD) i(LFEED)
.end
