TRAN level 3 case 12: bjt differential transient
* Stress-mesh topology family adapted from ngspice manual differential-pair and four-bit NAND-adder examples; primitive-only subset: https://ngspice.sourceforge.io/docs/ngspice-manual.pdf
.model NPNMOD NPN IS=1e-16 BF=120 BR=2 NF=1 NR=1 GMIN=1e-10
VCC vcc 0 DC 5
VEE vee 0 DC -3
VINP inp 0 DC 0.04
VINN inn 0 DC 0
QCORE1 out inp tail NPNMOD
QCORE2 qc2 inn tail NPNMOD AREA=1.1
RCORE1 vcc out 3.9k
RCORE2 vcc qc2 3.9k
RTAIL tail vee 1.8k
ROUT out 0 220k
COUT out 0 18n
RF001 tail n004 180
RG001 n004 0 13k
RB001 n004 qc2 5k
RB002 n004 vcc 8k
RX001 n004 vcc 22k
RX002 n004 vcc 23k
RX003 n004 vcc 24k
QF001 n004 0 0 NPNMOD AREA=1
RF002 n004 n005 316
RG002 n005 0 21k
RB003 n005 tail 13k
RB004 n005 out 16k
RX004 n005 vcc 30k
RX005 n005 vcc 31k
RX006 n005 vcc 32k
QF002 n005 0 0 NPNMOD AREA=1
RF003 n005 n006 452
RG003 n006 0 29k
RB005 n006 n004 10k
RB006 n006 qc2 7k
RX007 n006 vcc 38k
RX008 n006 vcc 39k
RX009 n006 vcc 40k
QF003 n006 0 0 NPNMOD AREA=1
RF004 n006 n007 265
RG004 n007 0 14k
RB007 n007 n005 7k
RB008 n007 tail 15k
RX010 n007 vcc 46k
RX011 n007 vcc 18k
RX012 n007 vcc 19k
QF004 n007 0 0 NPNMOD AREA=1
RF005 n007 n008 401
RG005 n008 0 22k
RB009 n008 n006 4k
RB010 n008 n004 6k
RX013 n008 vcc 25k
RX014 n008 vcc 26k
RX015 n008 vcc 27k
QF005 n008 0 0 NPNMOD AREA=1
RF006 n008 n009 214
RG006 n009 0 30k
RB011 n009 n007 12k
RB012 n009 n005 14k
RX016 n009 vcc 33k
RX017 n009 vcc 34k
RX018 n009 vcc 35k
QF006 n009 0 0 NPNMOD AREA=1
RF007 n009 n010 350
RG007 n010 0 15k
RB013 n010 n008 9k
RB014 n010 n006 5k
RX019 n010 vcc 41k
RX020 n010 vcc 42k
RX021 n010 vcc 43k
QF007 n010 0 0 NPNMOD AREA=1
RF008 n010 n011 486
RG008 n011 0 23k
RB015 n011 n009 6k
RB016 n011 n007 13k
RX022 n011 vcc 20k
RX023 n011 vcc 21k
RX024 n011 vcc 22k
QF008 n011 0 0 NPNMOD AREA=1
RF009 n011 n012 299
RG009 n012 0 31k
RB017 n012 n010 3k
.tran 1u 10u 0 1u UIC
.print tran time v(vcc) v(out) v(qc2) v(tail) i(VCC)
.end
